US05962297
The activity of the present β-fructofuranosidase is assayed as follows: Sucrose as a substrate was dissolved in 20 mM acetate buffer (pH 6.0) containing 5 mM calcium chloride to give a concentration of 0.1 w/v %. To 5 ml of the solution was added 0.2 ml of a test sample, and the mixture was incubated at 40° C. for 10 min, followed by suspending the enzymatic reaction by the addition of 0.2 ml of the Somogyi copper solution and assaying the reducing power of the reaction mixture by the Somogyi-Nelson's method. As a control, a control solution, which was preheated at 100° C. for 10 min to inactivate the enzyme, was treated similarly as above. Under the above reaction conditions, one unit β-fructofuranosidase activity is defined as the amount of enzyme or polypeptide which gives a reducing power equal to that of 2 μmole of glucose per minute.

reactant | Sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | calcium chloride | 5 mM | [Cl-].[Ca+2].[Cl-]
solvent | acetate | 20 mM, pH 6.0 | C(C)(=O)[O-]
catalyst | copper | [Cu] | Cu
product | glucose | 2 μmole | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
